Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
OxyContin / bacitracin / Flomax / oxycodone / tamsulosin / 
Dilaudid
 
Attending: ___
 
Chief Complaint:
This is a ___ year old man with history of lumbar stenosis who 
presents for elective lumbat lami and fusion L ___
 
Major Surgical or Invasive Procedure:
L2-5 lumbar lami and fusion ___

 
History of Present Illness:
I am seeing Mr. ___ today for another followup.  He finally
agreed to surgery and it is coming up.  New MRI was reviewed. 
Much worse L2-L3 severe stenosis with total occlusion of the
spinal canal.  Unchanged severe L3-L4 stenosis.  His neurogenic
claudication has gotten much worse.  L4-L5, however, seems to be
slightly better and I think we do not need to operate at this
level.  The patient's main symptoms now is inability to stand
straight and he has to walk significantly flexed and then he 
gets
acute shooting pain in the groin every time he stands up.  He is
definitely going to benefit from L2-L4 facetectomies,
laminectomies to decompress the spinal canal and fusion L2-L4. 
We are going to book it for this coming ___ as scheduled.

 
Past Medical History:
bronchitis, arthritis, gout, s/p bilat THR, CVA ___, 
thromboembolic stroke on POD #1 after THR, thought r/t PFO- PFO 
repair no residual, s/p RCR, past lumbar and cervical surgery, 
spintal stenosis/ mild scoliosis, spondylolisthesis l ___ , L 
___ 
 
Social History:
___
Family History:
NC
 
Physical Exam:
On the day of discharge:
alert and oriented x3 
MAE ___ strength 
SILT 
incision c/d/i, closed with staples 
 
Pertinent Results:
___ AP/Lateral Xray 
Images were obtained in a brace.  There are 5 non-rib-bearing 
lumbar-type 
vertebrae.  The patient is status post laminectomy and posterior 
stabilization from L2-L4.  There is a moderate scoliosis convex 
to the right centered at L3. There is preservation of the normal 
lumbar lordosis.  Moderate multilevel degenerative changes 
similar in appearance when compared to the prior MRI.  Facet 
joint arthropathy also noted.  A surgical drain appears to be 
in-situ although of visualized on the AP view only.  More size 
bone graft is seen adjacent to the surgical site.

CTA CHEST W&W/O C&RECONS, NON-CORONARY ___ 
-No pulmonary embolus. 
-Atelectasis of left more than right lung bases, without 
definite focal 
consolidation. 
-2 mm pulmonary nodule right middle lobe.  If the patient has 
high-risk for lung cancer, a 12 month followup chest CT is 
suggested.  If low risk, no further followup is needed for this 
finding. 
 
___ CXR
The lung volumes are normal.  Normal size of the cardiac 
silhouette.  Normal hilar and mediastinal contours.  No pleural 
effusions.  No pneumonia, no pulmonary edema.

___ EKG 
Atrial fibrillation with a rapid ventricular response. Early R 
wave 
progression. ST-T wave abnormalities. Compared to the previous 
tracing  
of ___ probably no significant change. Clinical correlation 
is suggested.  
  
___ ECHO
 Suboptimal image quality. Mild symmetric left ventricular 
hypertrophy with preserved global systolic function. No 
defininte intracardiac shunt or pathology valvular flow 
identified. 

 
Brief Hospital Course:
This is a ___ year old man with history of lumbar stenosis who 
presents electively today for L2-5 lumbar lami and fusion.A 
hemovac was placed.  The patient tolerated the procedure well 
and was recovered in the pacu.  The patient was transferred to 
the floor in stable condition and his diet was advanced.  The 
patient was neurologically intact at the time of the post 
operative check.  

On post operative day one patient was neurologically intact. His 
foley was removed.  He was evaluated by ___ who did TLSO brace 
teaching. He underwent AP and Lateral xrays in his brace which 
revealed good alignment and hardware placement. 

On ___ Patient complained of pain. Worked with physical therapy 
who determined they needed one more visit prior to safe 
discharge. 

On ___, patient was triggered for new onset afib RVR.  Poorly 
responsive to metop and was transferred to the unit.  Stat CTA 
was negative for PE, with no clear infectious cause.  He was 
found to be retaining 700cc urine and foley was placed.  With 
foley placement he subsequently spontaneously converted.  He was 
transferred back to the floor.

On ___, he had several episodes of afib RVR (asymptomatic) for 
which he received metop IV.  Tropoinin were negative and he 
spontaneously converted back to NSR.   He was started on Metop 
12.5 q6hr.  He was transferred to the step down unit. Medicine 
was consulted.  Subsequent echo, u/a and TSH were ordered. 
Patient's heart rate was then elevated and sustained in the 
150s, he was given a total of 15mg of IV lopressor and 10mg IV 
of diltiazem. IV diltiazem had some success with heart rate to 
120s. He very quickly went back up to 150s and was sustained, 
systolic blood pressure was in the ___. He was given a liter 
fluid bolus and started on a diltiazem gtt ___. He was back 
into sinus rhythm with heart rate in the ___. His blood pressure 
was normailized. 

On ___, Mr. ___ heart rate was stable on the diltiazem 
drip and oral formulation of the drug.  The drip was 
successfully discontinued and his heart rate remained stable and 
in sinus rhythm.  He was started on warfarin (with no bridge) 
per Medicine's recommendations.  The patient's bowel regimen was 
changed for more aggressive treatment of his constipation.

On ___, Mr. ___ remained hemodynamically stable.  He moved 
his bowels successfully.  Overall, he felt well and was ready 
for discharge home.

On ___ Patient remained in NSR. HR in the ___. He was 
discharged home with instructions for follow up. He was 
discharged on coumain with instructions to follow up with his 
oupatient cardiologist this ___ for INR monitoring. 
 
Medications on Admission:
simvastatin, asa 81 , carboxymethylce-glycern-poly 80, 
cholecalciferol, vitamin b 12, loratadine, multivit, vit b 
complex

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain/ headache 
2. Aspirin 81 mg PO DAILY 
3. Cyanocobalamin 1000 mcg PO 3 TIMES A WEEK 
4. Diltiazem Extended-Release 120 mg PO DAILY 
RX *diltiazem HCl 120 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*3
5. Docusate Sodium 100 mg PO BID 
6. Loratadine 10 mg PO DAILY 
7. Methocarbamol 500 mg PO QID 
RX *methocarbamol 500 mg 1 tablet(s) by mouth QID PRN muscle 
spasm Disp #*90 Tablet Refills:*0
8. Morphine Sulfate ___ ___ mg PO Q4H:PRN back pain 
RX *morphine 15 mg ___ tablet(s) by mouth Q4-6H PRN pain Disp 
#*30 Tablet Refills:*0
9. Multivitamins 1 TAB PO DAILY 
10. Warfarin 5 mg PO DAILY16 
RX *warfarin 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lumbar Stenosis
Afib with RVR

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery

·     Your dressing may come off on the second day after 
surgery. 

·     Your incision is closed with staples. You will need staple 
removal. 

·     Do not apply any lotions or creams to the site. 

·     Please keep your incision dry until removal of your 
staples.

·     Please avoid swimming for two weeks after staple removal.

·     Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

 

Activity

·     *** You must wear your brace at all times when the head of 
the bed is greater than 30 degrees. You may apply your brace 
while lying in bed. You do not need to sleep with it on. 

·     You must wear your brace while showering. 

·     We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.

·     You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.

·     No driving while taking any narcotic or sedating 
medication. 

·     No contact sports until cleared by your neurosurgeon. 

·     Do NOT smoke. Smoking can affect your healing and fusion.

 

Medications

·     Do not take any anti-inflammatory medications such as 
Motrin, Advil and Ibuprofen etc… until cleared by your 
neurosurgeon.

·     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

·     It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

 

When to Call Your Doctor at ___ for:

·     Severe pain, swelling, redness or drainage from the 
incision site. 

·     Fever greater than 101.5 degrees Fahrenheit

·     New weakness or changes in sensation in your arms or legs.

 

 

 
Followup Instructions:
___